US08071588B2
A mixture of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (400 mg, 1.18 mmol), 2-butylmalonic acid (200 mg, 1.24 mmol), HBTU (535 mg, 1.41 mmol) and Et3N (0.82 mL, 5.89 mmol) in DCM (8 mL) was stirred at room temperature for 30 min. It was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with water followed by a brine wash. The organic layer was dried over sodium sulfate, filtered, concentrated and purified with purified with a Gilson HPLC (with 0.1% TFA condition) eluting with 10 to 70% CH3CN in water at a flowrate of 20 mL/min. The fractions were dried with EZ GeneVac to give 2-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]hexanoic acid. LC-MS m/z 446 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 1.18 mmol, 400 mg | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
reactant | 2-butylmalonic acid | 1.24 mmol, 200 mg | C(CCC)C(C(=O)O)C(=O)O | C7H12O4
reactant | HBTU | 1.41 mmol, 535 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 5.89 mmol, 0.82 mL | CCN(CC)CC | C6H15N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]hexanoic acid | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C(C(=O)O)CCCC)CC | C23H35N5O4
